US06162937
Formalin (37% solution; 3.5 g, 43.1 mmol) was added to a mixture of indene (10.0 g, 86.2 mmol) and EtONa (2.9 g, 43.1 mmol) in N,N-dimethylformamide (100 mL). The reaction mixture was stirred at room temperature for 12 hours. A solution of HCl (1 M, 50 mL) was added. The mixture was extracted with CH2Cl2 (2×100 mL) and the organic phases combined, washed with a saturated solution of NaCl and then with water, dried over MgSO4, filtered and finally concentrated to yield a viscous brown liquid (89% yield by GC). Vacuum distillation yielded pure bis-(3-indenyl)methane as a yellow viscous oil (b.p. 160-180° C. at 1.2 mmHg, 3.65 g, 35% yield), which can be recrystallized from pentane.

reactant | Formalin | 43.1 mmol, 3.5 g | C=O | CH2O
reactant | indene | 86.2 mmol, 10.0 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | EtONa | 43.1 mmol, 2.9 g | CC[O-].[Na+]
reactant | HCl | 1 M, 50 mL | Cl | ClH
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | bis-(3-indenyl)methane | 35% yield | C1C=C(C2=CC=CC=C12)CC1=CCC2=CC=CC=C12 | C19H16
